US06300334B1
b) 5-Bromo-3-methyl-6-[(1-methyl-1H-benzimidazol-2-yl)carbonyl]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Prepared according to the method described in Example 37 step c from 5-bromo-6-[hydroxy(1-methyl-1H-benzimidazol-2-yl)methyl]-3-methyl-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (5.0 g), 4-methylmorpholine-N-oxide (1.84 g), powdered 4 Å sieves (5.0 g) and tetra-n-propyl-ammonium perruthenate (0.18 g) in dry dichloromethane (170 ml) with stirring at room temperature for 24 hours. After work up, the residue was purified by column chromatography over silica eluting with a gradient of 0-2% ethanol in dichloromethane to give the subtitle compound as a yellow powder (2.93 g).

reactant | 5-bromo-6-[hydroxy(1-methyl-1H-benzimidazol-2-yl)methyl]-3-methyl-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 5.0 g | BrC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)C(C2=NC1=C(N2C)C=CC=C1)O | C20H21BrN4O3S
reactant | 4-methylmorpholine-N-oxide | 1.84 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
catalyst | tetra-n-propyl-ammonium perruthenate | 0.18 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-Bromo-3-methyl-6-[(1-methyl-1H-benzimidazol-2-yl)carbonyl]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.93 g | BrC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)C(=O)C2=NC1=C(N2C)C=CC=C1 | C20H19BrN4O3S
